US08461181B2
(7) Dinitroaniline Herbicidal Compounds
pendimethalin, prodiamine, and trifluralin.

reactant | pendimethalin | CCC(CC)NC=1C(=CC(=C(C1[N+](=O)[O-])C)C)[N+](=O)[O-] | C13H19N3O4
reactant | prodiamine | CCCN(CCC)C1=C(C=C(C(=C1[N+](=O)[O-])N)C(F)(F)F)[N+](=O)[O-] | C13H17F3N4O4
reactant | trifluralin | CCCN(CCC)C=1C(=CC(=CC1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-] | C13H16F3N3O4
product | Dinitroaniline | [N+](=O)([O-])N(C1=CC=CC=C1)[N+](=O)[O-] | C6H5N3O4
